US09233098B2
2. Preparation of ethyl 2-[2-methyl-3-(4-nitrobenzyl)-1H-indol-1-yl]acetate
2-Methyl-3-(4-nitrobenzyl)-1H-indole (4.0 g, 15 mmol) was weighed, and dissolved in 30 mL DMF. Cesium carbonate (9.77 g, 30 mmol) was added, and stirred at room temperature for 15 min. Ethyl bromoacetate (2.755 g, 16.5 mmol) was added, and reacted at room temperature for 3 h. Upon completion of the reaction, it was filtered. The filtrate was added into water, and extracted with ethyl acetate. The extract was washed with water, and a saturated solution of sodium chloride, rotate evaporated to dryness, chromatographed on a silica gel column (petroleum ether) to obtain a yellow solid 2.7 g, at a yield of 51.1%.

reactant | 2-Methyl-3-(4-nitrobenzyl)-1H-indole | 15 mmol, 4.0 g | CC=1NC2=CC=CC=C2C1CC1=CC=C(C=C1)[N+](=O)[O-] | C16H14N2O2
reactant | Cesium carbonate | 30 mmol, 9.77 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Ethyl bromoacetate | 16.5 mmol, 2.755 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | ethyl 2-[2-methyl-3-(4-nitrobenzyl)-1H-indol-1-yl]acetate | 2.7 g, yield of 51.1% | CC=1N(C2=CC=CC=C2C1CC1=CC=C(C=C1)[N+](=O)[O-])CC(=O)OCC | C20H20N2O4
